US08389524B2
(c) 1,3-Dihydrofuro[3,4-c]pyridine-6-carbaldehyde
A solution of 1,3-dihydrofuro[3,4-c]pyridin-6-ylmethanol (66 mg, 0.437 mmol) in DCM (5 ml) at rt under argon was treated with manganese dioxide (380 mg, 4.37 mmol) and then stirred at rt for 2 h, filtered through a thin pad of Kieselguhr, eluting with DCM (40 ml) and methanol (10 ml), the organic extracts were evaporated to give the crude product as a brown oil (65 mg, 100%)

reactant | 1,3-dihydrofuro[3,4-c]pyridin-6-ylmethanol | 0.437 mmol, 66 mg | C1OCC=2C=NC(=CC21)CO | C8H9NO2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 4.37 mmol, 380 mg | [O-2].[O-2].[Mn+4]
product | 1,3-Dihydrofuro[3,4-c]pyridine-6-carbaldehyde | 65 mg, 100% | C1OCC=2C=NC(=CC21)C=O | C8H7NO2
